US07745438B2
(2R,3S,5R)-5-[(1S,2S)-1-benzyloxy-2-dibenzylamino-3-(4-methyl-3,5-difluorophenyl)-propyl]-2-(2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester
Add n-butyllithium (252 μL, 0.404 mmol, 1.6 M in hexanes) dropwise over 5 minutes to a solution of (2R,3S,5R)-5-[(1S,2S)-1-benzyloxy-2-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-2-(2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester (0.30 g, 0.404 mmol) in tetrahydrofuran (0.6 mL) at −78° C. Add potassium tert-butoxide (0.404 mL, 1 M in tetrahydrofuran) dropwise over 10 minutes and stir the reaction mixture for an additional 10 minutes. Add iodomethane (25.1 μL, 0.404 mmol) followed by a solution of hexamethylphosphorus triamide (53.7 μL, 0.294 mmol) in tetrahydrofuran (40.4 μL). Stir reaction mixture at −78° C. for 1 hour. Remove cooling bath and stir for 20 minutes. Add water (20 mL) and extract with ethyl acetate (2×50 mL). Wash combined organic layers with water (3×20 mL), dry over magnesium sulfate, and concentrate under reduced pressure. Subject residue to silica gel chromatography, eluting with hexanes containing 0-10% diethyl ether, to provide the desired compound 0.169 g (55.3%) as a white foam.

reactant | n-butyllithium | 0.404 mmol, 1.6 M, 252 μL | C(CCC)[Li]
reactant | (2R,3S,5R)-5-[(1S,2S)-1-benzyloxy-2-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-2-(2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester | 0.404 mmol, 0.30 g | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)OCC(C)(C)C)C | C45H56F2N2O5
reactant | potassium tert-butoxide | 1 M, 0.404 mL | CC(C)([O-])C.[K+]
reactant | iodomethane | 0.404 mmol, 25.1 μL | IC | CH3I
reactant | hexamethylphosphorus triamide | 0.294 mmol, 53.7 μL | CN(C)P(N(C)C)N(C)C | C6H18N3P
solvent | tetrahydrofuran | 0.6 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40.4 μL | O1CCCC1 | C4H8O
product | (2R,3S,5R)-5-[(1S,2S)-1-benzyloxy-2-dibenzylamino-3-(4-methyl-3,5-difluorophenyl)-propyl]-2-(2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester | 0.169 g, 55.3% | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=C(C(=C1)F)C)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)OCC(C)(C)C)C | C46H58F2N2O5
